US04547371
To a solution of 3.67 gms of (2R,3S) and 2S,3R)-t-butyl 4-bromo-3-hydroxy-2-thioformamido-3-trifluoromethylbutyrate in 65 ml acetone was added 4.15 g powdered anhydrous potassium carbonate. The reaction mixture was stirred for 30 minutes at room temperature, filtered and evaporated to dryness under reduced pressure. The crude brown oil was then purified by chromatography on silica gel using 80:20 hexane:ethyl acetate as the eluting solvent to give 0.781 gms of white solid, (4R,5S) and (4S,5R)-t-butyl 5-hydroxy-5-trifluoromethyl-4,5-dihydro-6H-1,3-thiazine-4-carboxylate (yield 27%) m.p. 126.5°-127.5° C. NMR (CDCL3): δ=1.55 (s, 9H), 2.93, 3.13 (AB-q, J=13.8 Hz, 2H), 4.13 (d, J=2.7 Hz, 1H), 5.33 (s, 1H), 8.25 (d-d, J=2.7, 1.2 Hz, 1H).

reactant | t-butyl 4-bromo-3-hydroxy-2-thioformamido-3-trifluoromethylbutyrate | BrCC(C(C(=O)OC(C)(C)C)NC=S)(C(F)(F)F)O | C10H15BrF3NO3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 65 ml | CC(=O)C | C3H6O
product | (4S,5R)-t-butyl 5-hydroxy-5-trifluoromethyl-4,5-dihydro-6H-1,3-thiazine-4-carboxylate | yield 27% | O[C@]1([C@H](N=CSC1)C(=O)OC(C)(C)C)C(F)(F)F | C10H14F3NO3S
